US04220716
100 ml of the medium of Example 1 were inoculated with Mucor hiemalis FERM P-3800 and shaken at 26.5° C. for 22 hours. The culture was then treated with 50 mg of 17β-hydroxy-4-androsten-3one in 1 ml of dimethyl sulphoxide and incubated for 8 days. There were obtained from the culture filtrate 4.8 mg of 7α,17β-dihydroxy-4-androsten-3-one of melting point 191°-193° C.

reactant | 17β-hydroxy-4-androsten-3one | 50 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C19H28O2
reactant | dimethyl sulphoxide | 1 ml | CS(=O)C | C2H6OS
product | 7α,17β-dihydroxy-4-androsten-3-one | 4.8 mg | O[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C2C1)=O)C)O | C19H28O3
